US05238942
2-Butyl-3-[(2'-(cyano)biphen-4-yl)methyl]quinazolin-4(3H)-one
The quinazolinone prepared as described in Example 17 was alkylated with 4-bromomethyl-2'-cyanobiphenyl. The product was purified by MPLC Lobar C silica column eluting with 25% EtOAc/hexane. Rf 0.13 in 30% EtOAc/hexane. 1H-NMR (300 MHz, CDCl3): 8.32 (m, 1H), 7.84-7.59 (m, 7H), 5.46 (bs, 2H), 2.79 (3 line m, 2H), 1.80 (m, 2H), 1.44 (m, 2H), 0.94 (t, 3H).

reactant | quinazolinone | C=1C=CC2=C(C1)C(=O)NC=N2 | C8H6N2O
reactant | 4-bromomethyl-2'-cyanobiphenyl | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C14H10BrN
product | 2-Butyl-3-[(2'-(cyano)biphen-4-yl)methyl]quinazolin-4(3H)-one | C(CCC)C1=NC2=CC=CC=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C26H23N3O
